US06492385B2
Step 77b: Preparation of Methyl Ethyl-1,3,4-oxadiazole-2-thione-5-carboxylate.
Following the procedure of Partyka and Crenshaw in U.S. Pat. No. 4,001,238, a solution of ethyl-1,3,4-oxadiazole-2-thione-5-carboxylate potassium salt dimethylsulfoxide solvate (4.1 g, 24 mmol) and iodomethane (6.7 g, 47 mmol) are heated for 1 hour at reflux in EtOH (20 mL). A solid is removed by vacuum filtration, and the filtrate is concentrated. Water (40 mL) is added to the resultant material, a solid is isolated by vacuum filtration, dried at 50° C./0.5 mmHg overnight to afford the desired product (2.3 g, 50%).

reactant | ethyl-1,3,4-oxadiazole-2-thione-5-carboxylate potassium | [K].C(C)OC(=O)C1=NNC(O1)=S
reactant | iodomethane | 47 mmol, 6.7 g | IC | CH3I
reactant | EtOH | 20 mL | CCO | C2H6O
product | Methyl Ethyl-1,3,4-oxadiazole-2-thione-5-carboxylate | 2.3 g, 50% | C(C)S=C1OC(=NN1)C(=O)OC | C6H10N2O3S
